//  
simulator lang=spectre insensitive=yes
//  Predictive Technology Model Beta Version
//  180nm NMOS SPICE Parametersv (normal one)
// 
 
model tsmc18dN bsim3v3 type=n 
+ lint=4.e-08               tox=4.e-09                vth0=0.3999
+ rdsw=250                  lmin=1.8e-7               lmax=1.8e-7
+ wmin=1.8e-7               wmax=1.0e-4               tref=27.0
+ version=3.1               xj=6.0000000e-08          nch=5.9500000e+17
+ lln=1.0000000             lwn=1.0000000             wln=0.00
+ wwn=0.00                  ll=0.00                   lw=0.00
+ lwl=0.00                  wint=0.00                 wl=0.00
+ ww=0.00                   wwl=0.00                  mobmod=1
+ binunit=2                 xl=0                      xw=0
+ binflag=0                 dwg=0.00                  dwb=0.00
+ k1=0.5613000              k2=1.0000000e-02          k3=0.00
+ dvt0=8.0000000            dvt1=0.7500000            dvt2=8.0000000e-03
+ dvt0w=0.00                dvt1w=0.00                dvt2w=0.00
+ nlx=1.6500000e-07         w0=0.00                   k3b=0.00
+ ngate=5.0000000e+20       vsat=1.3800000e+05        ua=-7.0000000e-10
+ ub=3.5000000e-18          uc=-5.2500000e-11         prwb=0.00
+ prwg=0.00                 wr=1.0000000              u0=3.5000000e-02
+ a0=1.1000000              keta=4.0000000e-02        a1=0.00
+ a2=1.0000000              ags=-1.0000000e-02        b0=0.00
+ b1=0.00                   voff=-0.12350000          nfactor=0.9000000
+ cit=0.00                  cdsc=0.00                 cdscb=0.00
+ cdscd=0.00                eta0=0.2200000            etab=0.00
+ dsub=0.8000000            pclm=5.0000000e-02        pdiblc1=1.2000000e-02
+ pdiblc2=7.5000000e-03     pdiblcb=-1.3500000e-02    drout=1.7999999e-02
+ pscbe1=8.6600000e+08      pscbe2=1.0000000e-20      pvag=-0.2800000
+ delta=1.0000000e-02       alpha0=0.00               beta0=30.0000000
+ kt1=-0.3700000            kt2=-4.0000000e-02        at=5.5000000e+04
+ ute=-1.4800000            ua1=9.5829000e-10         ub1=-3.3473000e-19
+ uc1=0.00                  kt1l=4.0000000e-09        prt=0.00
+ cj=0.00365                mj=0.54                   pb=0.982
+ cjsw=7.9e-10              mjsw=0.31                 pbsw=0.841
+ cta=0                     ctp=0                     pta=0
+ ptp=0                     js=1.50e-08               jsw=2.50e-13
+ n=1.0                     xti=3.0                   cgdo=2.786e-10
+ cgso=2.786e-10            cgbo=0.0e+00              capmod=2
+ nqsmod=0                  elm=5                     xpart=1
+ cgsl=1.6e-10              cgdl=1.6e-10              ckappa=2.886
+ cf=1.069e-10              clc=0.0000001             cle=0.6
+ dlc=4e-08                 dwc=0                     vfbcv=-1
 
 
// 
//  Predictive Technology Model Beta Version
//  180nm PMOS SPICE Parametersv (normal one)
// 
 
model tsmc18dP bsim3v3 type=p 
+ lint=3.e-08               tox=4.2e-09               vth0=-0.42
+ rdsw=450                  lmin=1.8e-7               lmax=1.8e-7
+ wmin=1.8e-7               wmax=1.0e-4               tref=27.0
+ version=3.1               xj=7.0000000e-08          nch=5.9200000e+17
+ lln=1.0000000             lwn=1.0000000             wln=0.00
+ wwn=0.00                  ll=0.00                   lw=0.00
+ lwl=0.00                  wint=0.00                 wl=0.00
+ ww=0.00                   wwl=0.00                  mobmod=1
+ binunit=2                 xl=0.00                   xw=0.00
+ binflag=0                 dwg=0.00                  dwb=0.00
+ acm=0                     ldif=0.00                 hdif=0.00
+ rsh=0                     rd=0                      rs=0
+ rsc=0                     rdc=0                     k1=0.5560000
+ k2=0.00                   k3=0.00                   dvt0=11.2000000
+ dvt1=0.7200000            dvt2=-1.0000000e-02       dvt0w=0.00
+ dvt1w=0.00                dvt2w=0.00                nlx=9.5000000e-08
+ w0=0.00                   k3b=0.00                  ngate=5.0000000e+20
+ vsat=1.0500000e+05        ua=-1.2000000e-10         ub=1.0000000e-18
+ uc=-2.9999999e-11         prwb=0.00                 prwg=0.00
+ wr=1.0000000              u0=8.0000000e-03          a0=2.1199999
+ keta=2.9999999e-02        a1=0.00                   a2=0.4000000
+ ags=-0.1000000            b0=0.00                   b1=0.00
+ voff=-6.40000000e-02      nfactor=1.4000000         cit=0.00
+ cdsc=0.00                 cdscb=0.00                cdscd=0.00
+ eta0=8.5000000            etab=0.00                 dsub=2.8000000
+ pclm=2.0000000            pdiblc1=0.1200000         pdiblc2=8.0000000e-05
+ pdiblcb=0.1450000         drout=5.0000000e-02       pscbe1=1.0000000e-20
+ pscbe2=1.0000000e-20      pvag=-6.0000000e-02       delta=1.0000000e-02
+ alpha0=0.00               beta0=30.0000000          kt1=-0.3700000
+ kt2=-4.0000000e-02        at=5.5000000e+04          ute=-1.4800000
+ ua1=9.5829000e-10         ub1=-3.3473000e-19        uc1=0.00
+ kt1l=4.0000000e-09        prt=0.00                  cj=0.00138
+ mj=1.05                   pb=1.24                   cjsw=1.44e-09
+ mjsw=0.43                 pbsw=0.841                cta=0.00093
+ ctp=0                     pta=0.00153               ptp=0
+ js=1.50e-08               jsw=2.50e-13              n=1.0
+ xti=3.0                   cgdo=2.786e-10            cgso=2.786e-10
+ cgbo=0.0e+00              capmod=2                  nqsmod=0
+ elm=5                     xpart=1                   cgsl=1.6e-10
+ cgdl=1.6e-10              ckappa=2.886              cf=1.058e-10
+ clc=0.0000001             cle=0.6                   dlc=3e-08
+ dwc=0                     vfbcv=-1                  
 
 
